US08119661B2
Step B. The preparation of ethyl 4-(4-hydroxy-1-piperidyl)-4-methyl-piperidine-1-carboxylate
To a stirred solution of ethyl 4-cyano-4-(4-hydroxy-1-piperidyl)piperidine-1-carboxylate (2.45 g, 8.69 mmol) in THF (20 mL) was added a 1.4 M solution of MeMgBr in toluene/THF (18.6 mL, 26.1 mmol) at 0° C., and the mixture was stirred at room temperature for 12 h. The reaction was then quenched with saturated aqueous ammonium chloride, and the mixture was extracted with dichloromethane (2×25 mL). The combined extracts were concentrated in vacuo to afford the title compound (1.54 g, 65%), which was used in the next step without further purification. MS (M+1): 271.26.

reactant | ethyl 4-cyano-4-(4-hydroxy-1-piperidyl)piperidine-1-carboxylate | 8.69 mmol, 2.45 g | C(#N)C1(CCN(CC1)C(=O)OCC)N1CCC(CC1)O | C14H23N3O3
reactant | MeMgBr | C[Mg+].[Br-]
reactant | toluene THF | 26.1 mmol, 18.6 mL | C1(=CC=CC=C1)C.C1CCOC1
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl 4-(4-hydroxy-1-piperidyl)-4-methyl-piperidine-1-carboxylate | 1.54 g, 65% | OC1CCN(CC1)C1(CCN(CC1)C(=O)OCC)C | C14H26N2O3
